US07504412B2
2-Nitro-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazole
Operations similar to Production Example 1-(2) were conducted using 2-chlorocyclohexanone and 2-amino-5-nitropyridine. The resulting solid was suspended in ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to provide the title compound as yellow crystals.

reactant | 2-chlorocyclohexanone | ClC1C(CCCC1)=O | C6H9ClO
reactant | 2-amino-5-nitropyridine | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Nitro-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazole | [N+](=O)([O-])C=1C=CC2=NC3=C(N2C1)CCCC3 | C11H11N3O2
